Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Citalopram
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ woman with history of moderate COPD/asthma (FEV1 40% 
pred. in ___, CAD, diastolic CHF, and aortic aneurysm who 
presented to the emergency room overnight with several weeks of 
SOB and cough productive of yellow sputum. Pt reports that 
symptoms have been intermittent for several weeks; recently 
symptoms have become worse. She was seen by her PCP ___ who 
recommended that she keep her appointment with her pulmonologist 
___ for consideration of initiation of daily low dose 
prednisone. Of note, in the past pt has had issues with 
noncompliance with meds. Pt reports that she has been using her 
nebs more frequently recently given her SOB.  
.  
Her initial vitals in the ED were 100.4, 86, 136/89, 16, and 
94%. Labs notable for no white count, normal electrolytes and 
normal lactate (1.3). Chest x-ray notable for stable left 
lingular nodule and linear opacities in the right mid lung. 
There was no acute process. Nevertheless, the patient was 
treated for CAP in the ED with ceftriaxone and azithromycin. She 
was also treated with methylprednisolone and Combivent nebs for 
presumptive COPD exacerbation. Blood cultures were drawn prior 
to antibiotic administration. The patient was then admitted for 
further treatment. Vitals at time of admit: 97.9, 77, 157/83, 
18, 100% RA.  
.  
Review of Systems:  
(+) Pt reports feeling nightsweats yesterday, nausea two days 
ago, intermittent headaches (recently changed from amitriptyline 
prn to daily), chronic constipation  
(-) Denies rhinorrhea, sore throat, chest pain, palpitations, 
abdominal pain  

 
Past Medical History:
- Chronic obstructive pulmonary disease  
- Asthma  
- Hypertension  
- Headaches  
- Duodenal and stomach ulcers, s/p partial gastrectomy  
- Aortic aneurysm  
- Cataracts  
- History of pulmonary nodule  
- Diastolic CHF  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On admission:
VS: 98.1  140/80  72  24  100%4L 
Gen: NAD. Alert and oriented x3. Mood and affect appropriate. 
Pleasant and cooperative. Resting in bed.
HEENT: NCAT. PERRL, EOMI, anicteric sclera. MMM, OP clear.
Neck: Supple. JVP not elevated.  
CV: RRR.  Normal S1, S2.  No murmur, rubs, or gallops.
Chest: Faint diffuse wheezes, decreased breath sounds diffusely, 
bibasilar crackles  
Abd: BS present. Soft, NT, ND. No HSM detected.
Ext: WWP, no cyanosis or clubbing. Trace ___ edema. Digital cap 
refill <2 sec.  Distal pulses DP 2+, ___ 2+.
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:00AM BLOOD WBC-4.1 RBC-4.26 Hgb-12.3 Hct-37.7 MCV-89 
MCH-28.9 MCHC-32.6 RDW-14.0 Plt ___
___ 01:00AM BLOOD Glucose-148* UreaN-14 Creat-0.8 Na-141 
K-5.1 Cl-102 HCO3-31 AnGap-13
___ 01:19AM BLOOD Lactate-1.3
___ 1:00 am Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
.
DISCHARGE LABS
--------------
___ 07:20AM BLOOD WBC-5.3 RBC-4.20 Hgb-12.4 Hct-38.0 MCV-90 
MCH-29.5 MCHC-32.6 RDW-14.7 Plt ___
___ 07:20AM BLOOD Glucose-112* UreaN-26* Creat-0.8 Na-144 
K-3.5 Cl-105 HCO3-26 AnGap-17
___ 07:20AM BLOOD Calcium-9.0 Phos-4.2 Mg-2.0
.
IMAGING
-------
Chest (PA & LAT) ___:
FRONTAL AND LATERAL VIEWS OF THE CHEST: Linear opacities in the 
right lung are again seen, unchanged since the prior study and 
likely relate to 
scarring/nonspecific fibrosis. The left lingular nodular opacity 
is not as discretely seen on this study but appears stable in 
size. There is no new pleural effusion or pneumothorax. Mild 
cardiomegaly is unchanged. The aorta remains tortuous. 
  
IMPRESSION: No acute intrathoracic process. Stable appearance of 
scarring/fibrosis over the right mid lung and lingular nodular 
density. 
.
MICROBIOLOGY
------------
___ 1:00 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 5:54A 
___. 
      GRAM POSITIVE COCCI. 
      IN PAIRS AND CLUSTERS.
.
Blood culture ___: pending, no growth to date

 
Brief Hospital Course:
___ woman with history of moderate obstructive lung 
disease presents with two weeks of shortness of breath and a 
couple days of sputum production, with low-grade fevers in the 
emergency room.  
.  
ACTIVE ISSUES
-------------
# Shortness of breath, productive cough, low-grade fever: 
dyspnea likely secondary to COPD flare, possibly exacerbated by 
viral bronchitis given cough and low grade temperature.  Chest 
X-ray did not show pneumonia.  Patient was given standing 
nebulizers and prednisone 60mg x 7 days without a taper.  She 
was also treated with azithromycin x 5 days.  She was kept on 
her home oxygen of 4 liters with maintenance of oxygen 
saturations.
.  
INACTIVE ISSUES
---------------
# Diastolic CHF: Last TTE on ___ showed preserved ejection 
fraction, and no significant valvular disease.  She appeared 
euvolemic on exam.  Chest X-ray was without any large effusions. 
 Patient was continued on her home dose of furosemide during 
hospitalization. 
.  
# Aortic aneurysm: CTA performed on ___ showing slightly 
enlarged aortic aneurysm measuring approximately 4.5 cm AP x 4.9 
cm transversely (previously 4.2 cm in AP x 4.2 cm transverse).  
She should follow-up with her PCP as an outpatient further 
regarding this problem.
. 
# Hypertension: patient was continued on her home dose of lasix 
and lisinopril. 
.  
# Headaches: patient was continued on her home dose of 
amitryptiline.  
.
# Gastroesophageal reflux disease: patient was continued on home 
proton pump inhibitor. 
.
TRANSITION OF CARE
------------------
# Follow-up: patient has pending blood cultures that should be 
followed up upon discharge.  She will be scheduled by her 
primary care provider for ___ follow-up 
appointment.  She will also be seen by Pulmonary soon after 
discharge for an initial assessment.
.
# Code status: patient is confirmed full code
.
# Communication:
- Al (son): ___.  
- ___ (son): ___. 
 
Medications on Admission:
- albuterol 90 mcg HFA 2 puffs q6h prn  
- amitryptiline 50 mg once daily at night  
- budesonide 0.5 mg/2 mL solution for nebulizer bid  
- furosemide 40 mg every morning  
- ibuprofen 600 mg tid to qid prn  
- ipratropium-albuterol nebs up to three times daily  
- lactulose hs prn for constipation  
- lisinopril 40 mg qday  
- omeprazole 20 mg qday  
- oxygen 4L at night  
- acetaminophen prn  
- multivitamin 
 
Discharge Medications:
1. amitriptyline 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily) as needed for constipation.  
4. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
8. azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 1 days.
Disp:*1 Tablet(s)* Refills:*0*
9. acetaminophen  Oral
10. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every six (6) hours as needed for 
shortness of breath or wheezing.  
11. budesonide 0.5 mg/2 mL Suspension for Nebulization Sig: One 
(1)  Inhalation twice a day.  
12. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL Solution 
for Nebulization Sig: One (1)  Inhalation three times a day as 
needed for shortness of breath or wheezing.  
13. ibuprofen  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:

Chronic obstructive pulmonary disease flare
Bacteremia

Secondary diagnosis: 

Diastolic congestive heart failure
Hypertension
Aortic aneurysm
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___.  You came for 
further evaluation of shortness of breath.  Further evaluation 
suggested that you had a flare-up of your chronic obstructive 
pulmonary disease.  It is very important that you continue to 
take your medications as prescribed and follow up with your 
primary care provider after discharge.

The following changes have been made to your medications:
1) Prednisone 60mg was started, which you should continue for 
three more days, starting tomorrow
2) Azithromycin 250mg was started, which you should continue for 
one more day, starting tomorrow

 
Followup Instructions:
___